US09340538B2
(3S)-methyl 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)-6,6-dimethylmorpholine-3-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.76 g, 1.52 mmol) was reacted with (S)-methyl 6,6-dimethylmorpholine-3-carboxylate (0.26 g, 1.52 mmol) according to the procedure as described in Example 24 to give the title compound as yellow oil (0.24 g, 27%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.52 mmol, 0.76 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=CN1 | C17H14Br2FN3O2S
reactant | (S)-methyl 6,6-dimethylmorpholine-3-carboxylate | 1.52 mmol, 0.26 g | CC1(OC[C@H](NC1)C(=O)OC)C | C8H15NO3
product | (3S)-methyl 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)-6,6-dimethylmorpholine-3-carboxylate | 0.24 g, 27% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1[C@@H](COC(C1)(C)C)C(=O)OC)C(=O)OCC | C25H28BrFN4O5S
